US07459472B2
2-(R)-tert-Butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-3-yl)-propionic acid (0.93 g ) was prepared from (R)—N-Boc-3-bromophenylalanine (1.0 g, 2.9 mmol) and 3-chloro-4-fluorophenylboronic acid (1.0 g, 5.8 mmol) following general procedure D.

reactant | (R)—N-Boc-3-bromophenylalanine | 2.9 mmol, 1.0 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC(=CC=C1)Br)C(=O)O | C14H18BrNO4
reactant | 3-chloro-4-fluorophenylboronic acid | 5.8 mmol, 1.0 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 2-(R)-tert-Butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-3-yl)-propionic acid | 0.93 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC=1C=C(C=CC1)C1=CC(=C(C=C1)F)Cl | C20H21ClFNO4
